Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[H:5],1.0852337147799995
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3][C:4]([H:5])[H:6],4.17735382845
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[O:1]=[C:2],4.15939953494
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:10]([C:7]([H:8])[H:9])([H:11])[H:12]>>[H:1][O:2][C:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],0.235017952859
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],2.06944791003
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],3.09400615919
[H:15].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.555958818090001
[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.32086148687
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9],2.4795925798
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],-1.44181969778
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:5],4.2076502414
[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]1>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14],0.874311561301
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3][H:4],3.5660264280500003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.221172431499999
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-1.8603923501
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:3]([H:4])#[C:5][O:6][C:7]=[C:8]([H:9])[H:10].[H:1][O:2],3.61137038538
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5],4.1988982560000006
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.10012770675
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10],3.02529801883
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:4]([H:5])[H:6],3.26073282321
[O:1]=[C:2]=[C:7]([H:8])[H:9].[O:3][C:4]#[C:5][H:6]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9],-0.267793831611
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],7.13279860543
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9],7.39223773921
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.87321608858
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-4.59788659706
[C:1].[C:2]=[C:3]([H:4])[H:5]>>[C:1]#[C:2][C:3]([H:4])[H:5],-6.27225008783
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],4.7141364107
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.09160421573
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:14],1.94606792308
